US08003685B2
To a suspension of 5-(3,3-dimethyl-but-1-ynyl)-3-[(cis-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (102 mg, 0.23 mmol) in dry CH2Cl2 (2 mL) is added DAST (Diethylaminosulphurtrifluoride) (90 μL, 0.69 mmol), and the mixture is stirred for 4 h at room temperature. Then it is diluted with CH2Cl2, water is added to the mixture, and it is vigorously stirred for 20 min. Organic fraction is separated, dried over Na2SO4, concentrated, and the residue is purified by preparative HPLC to give 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-fluoro-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid.

reactant | 5-(3,3-dimethyl-but-1-ynyl)-3-[(cis-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 0.23 mmol, 102 mg | CC(C#CC1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@@H](CC1)O)(C)C | C25H35NO4S
reactant | DAST | 0.69 mmol, 90 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 5-(3,3-dimethyl-but-1-ynyl)-3-[(trans-4-fluoro-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | CC(C#CC1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)F)(C)C | C25H34FNO3S
